* LCFVR GPI Circuit - XYCE NATIVE MASTER BUILD
* REGIME B (GPI WORK STATE)

.param F_SRC=60
.param VPK=175

* AC Source
V1 n1 0 SIN(0 {VPK} {F_SRC} 0 0)

* Capacitive Reservoir Branch
CRES n1 nC .1u
R_C nC 0 10

* Inductor Branch (Explicitly separated for Xyce)
LLOAD n1 nL 70H
R_LLOAD nL nMeas 20500

* Dummy Ammeter
V_AMMETER nMeas 0 0

* Probes
BVLIND vLind 0 V={V(n1)}
BPSRC ps 0 V={-V(n1)*I(V1)}
BPIND pi 0 V={V(vLind)*I(V_AMMETER)}

* Measurements Window
.meas TRAN Vrms_src RMS V(n1) FROM=3.983333 TO=4
.meas TRAN Irms_src RMS I(V1) FROM=3.983333 TO=4
.meas TRAN Vrms_ind RMS V(vLind) FROM=3.983333 TO=4
.meas TRAN Irms_ind RMS I(V_AMMETER) FROM=3.983333 TO=4

* Power Data
.meas TRAN S_source PARAM={Vrms_src*Irms_src}
.meas TRAN S_internal PARAM={Vrms_ind*Irms_ind}
.meas TRAN P_src AVG V(ps) FROM=3.983333 TO=4
.meas TRAN P_ind AVG V(pi) FROM=3.983333 TO=4

* Phase Measurement
.meas TRAN tVind WHEN V(vLind)=0 RISE=207
.meas TRAN tiind WHEN I(V_AMMETER)=0 RISE=207
.meas TRAN phi_time PARAM={360*(tiind-tVind)*F_SRC}

* Geometry Ratio (G)
.meas TRAN G_ratio PARAM={S_internal/S_source}

* Explicit Data Export
.PRINT TRAN V(n1) I(V1) V(vLind) I(V_AMMETER) V(ps) V(pi)

* Transient Setup
.tran 10u 4
.end